US09259470B2
4-Chloro-3-fluorobenzaldehyde (15.0 g, 94.6 mmol) was combined with malonic acid (10.8 g, 104 mmol) and pyridine (11.5 mL, 142 mmol). The mixture was heated to 50° C. and agitated 1 hour. Then it was heated to 100° C. and agitated 16 hours. Ice (100 g) and 6M HCl (25 mL) were added, and the mixture was agitated one hour. Precipitation was filtered, washed with water and dried in vacuo to give (E)-3-(4-chloro-3-fluorophenyl)acrylic acid (17.6 g, 87.7 mmol, 92.7% yield) as a solid.

reactant | 4-Chloro-3-fluorobenzaldehyde | 94.6 mmol, 15.0 g | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
reactant | malonic acid | 104 mmol, 10.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 142 mmol, 11.5 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 6M, 25 mL | Cl | ClH
product | (E)-3-(4-chloro-3-fluorophenyl)acrylic acid | 87.7 mmol, 17.6 g, 92.7% yield | ClC1=C(C=C(C=C1)/C=C/C(=O)O)F | C9H6ClFO2
